US09120749B2
{6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-[trans-4-(dimethylamino)cyclohexylamino]-7-fluoroquinolin-3-yl}(cyclopropyl)methanone
Following general procedure F, {6-bromo-4-[trans-4-(dimethylamino)cyclohexylamino]-7-fluoroquinolin-3-yl}(cyclopropyl)methanone (38 mg, 0.087 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (35 mg, 0.131 mmol) to afford the desired product (39 mg, 90%) as a green solid: 1H NMR (300 MHz, CD3OD) δ 9.19 (s, 1H), 8.29 (d, J=8.1 Hz, 1H), 7.60 (d, J=11.8 Hz, 1H), 7.49 (s, 1H), 7.42 (dt, J=11.6, 2.0 Hz, 1H), 4.18 (s, 1H), 2.86 (s, 6H), 2.85-2.78 (m, 1H), 2.42 (s, 2H), 2.19 (s, 2H), 1.76-1.62 (m, 4H), 1.22-1.07 (m, 5H); ESI MS m/z 500 [C27H28ClF2N3O2+H]+; HPLC 97.4% (AUC), tR=9.21 min.

reactant | {6-bromo-4-[trans-4-(dimethylamino)cyclohexylamino]-7-fluoroquinolin-3-yl}(cyclopropyl)methanone | 0.087 mmol, 38 mg | BrC=1C=C2C(=C(C=NC2=CC1F)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)N(C)C | C21H25BrFN3O
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.131 mmol, 35 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | {6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-[trans-4-(dimethylamino)cyclohexylamino]-7-fluoroquinolin-3-yl}(cyclopropyl)methanone | 39 mg, 90% | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1F)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)N(C)C | C27H28ClF2N3O2
